US06933387B2
e) (4R,10aS)-6-Ethyl-4-methyl-3,4,10,10a-tetrahydro-2H-pyrazino[1,2-a]indol-1-one.
Magnesium turnings (87 mg, 3.6 mmol) were added to a solution of (R)-6-Ethyl-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one (82 mg, 0.36 mmol) in methanol (4 mL). After hydrogen gas started to evolve, the reaction mixture was kept at 10-20° C. and stirred for 2 h to dissolve the magnesium completely. Then the reaction mixture was poured onto 3 mL ice-cold 1 M aq. HCl, neutralized with 1 M aq. potassium phosphate solution (pH 6.85), and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated to yield the title compound (80 mg, 97%). White solid. ISP-MS: m/e=231.2 ([M+H]+).

reactant | Magnesium | 3.6 mmol, 87 mg | [Mg] | Mg
reactant | (R)-6-Ethyl-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 0.36 mmol, 82 mg | C(C)C1=CC=CC=2C=C3N(C12)[C@@H](CNC3=O)C | C14H16N2O
reactant | hydrogen | [H][H] | H2
reactant | potassium phosphate | 1 M, pH 6.85 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | methanol | 4 mL | CO | CH4O
product | (4R,10aS)-6-Ethyl-4-methyl-3,4,10,10a-tetrahydro-2H-pyrazino[1,2-a]indol-1-one | 80 mg, 97% | C(C)C1=CC=CC=2C[C@@H]3N(C12)[C@@H](CNC3=O)C | C14H18N2O
